US05650533
2-Nitro-4-trifluoromethylbenzonitrile (10.8 g) and potassium carbonate (8.3 g) were heated to reflux in acetonitrile. A solution of 1-methylpropanethiol (5 g) in acetonitrile was added. The resultant suspension was heated at reflux for 4.5 hours. After cooling water was added and the mixture extracted with ethyl acetate. The organic extracts were washed with water. The organic extracts were washed with water, dried (anhydrous magnesium sulphate) and filtered. The filtrate was evaporated to dryness and the residue purified by column chromatography eluting with ethyl acetate in cyclohexane to give 2-(1-methylpropylsulphenyl)-4-trifluoromethylbenzonitrile (9.7 g) as a yellow oil, NMR (CDCl3) 1.0(t,3H), 1.2(d,3H), 1.5(m,2H), 3.4(m, 1H), 7.3(m, 1H), 7.6(m,2H).

reactant | 2-Nitro-4-trifluoromethylbenzonitrile | 10.8 g | [N+](=O)([O-])C1=C(C#N)C=CC(=C1)C(F)(F)F | C8H3F3N2O2
reactant | potassium carbonate | 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-methylpropanethiol | 5 g | CC(CC)S | C4H10S
reactant | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(1-methylpropylsulphenyl)-4-trifluoromethylbenzonitrile | 9.7 g | CC(CC)SC1=C(C#N)C=CC(=C1)C(F)(F)F | C12H12F3NS
